US07652041B2
Step 5: Preparation of 3-tert-butyl-4-chloroaniline
To a solution of 2-tert-butyl-1-chloro-4-nitrobenzene (505 mg, 2.36 mmol) in EtOAc (25 mL) was added SnCl2 hydrate (906 mg, 3.55 mmol). This mixture was heated at reflux and the solids dissolved. After 2 h, additional SnCl2 hydrate (906 mg, 3.55 mmol) was added and the solution was heated at reflux for another 2 h. The reaction mixture was purified by column chromatography (SiO2, 20% EtOAc/Hex) to give 210 mg of the title compound as a yellow oil (48%). 1H NMR (400 MHz, CD3OD) δ: 6.68 (d, 1H), 6.16 (d, 1H), 6.02 (dd, 1H), and 0.92 (s, 9H).

reactant | 2-tert-butyl-1-chloro-4-nitrobenzene | 2.36 mmol, 505 mg | C(C)(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C10H12ClNO2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 3-tert-butyl-4-chloroaniline | 210 mg, 48% | C(C)(C)(C)C=1C=C(N)C=CC1Cl | C10H14ClN
